US09315542B2
(4S,7S,10S,13S,15R)-10-benzyl-15-hydroxy-7,13-diisobutyl-15-methyl-1-morpholino-2,5,8,11,14-pentaoxo-4-phenethyl-3,6,9,12-tetraazahexadecan-16-yl methanesulfonate
Prepared according to procedures described above, by reacting methanesulfonyl chloride with (S)—N—((S)-1-(((2R,4S)-1,2-dihydroxy-2,6-dimethyl-3-oxoheptan-4-yl)amino)-1-oxo-3-phenylpropan-2-yl)-4-methyl-2-((S)-2-(2-morpholinoacetamido)-4-phenylbutanamido)pentanamide. MS for C41H61N5O10S m/z: 816 (M+H)+.

reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | (S)—N—((S)-1-(((2R,4S)-1,2-dihydroxy-2,6-dimethyl-3-oxoheptan-4-yl)amino)-1-oxo-3-phenylpropan-2-yl)-4-methyl-2-((S)-2-(2-morpholinoacetamido)-4-phenylbutanamido)pentanamide | OC[C@@](C([C@H](CC(C)C)NC([C@H](CC1=CC=CC=C1)NC([C@H](CC(C)C)NC([C@H](CCC1=CC=CC=C1)NC(CN1CCOCC1)=O)=O)=O)=O)=O)(C)O | C40H59N5O8
product | (4S,7S,10S,13S,15R)-10-benzyl-15-hydroxy-7,13-diisobutyl-15-methyl-1-morpholino-2,5,8,11,14-pentaoxo-4-phenethyl-3,6,9,12-tetraazahexadecan-16-yl methanesulfonate | CS(=O)(=O)OC[C@@](C([C@@H](NC([C@@H](NC([C@@H](NC([C@@H](NC(CN1CCOCC1)=O)CCC1=CC=CC=C1)=O)CC(C)C)=O)CC1=CC=CC=C1)=O)CC(C)C)=O)(C)O | C41H61N5O10S
